US05516788
cis-4b.5.9b,10-Tetrahydro-8-methoxy-5-methylindeno[1,2-b]indole
Using the same procedure as described in Example 2 for cis-4b,5,9b,10-tetrahydro-8-methoxyindeno[1,2-b]indole (239 mg, 1.0 mmol) was methylated with iodomethane, using sodium hydride (25 mg, 1.1 mmol) as the base, in THF (2 cm3). Extraction work-up (into diethylether), and purification by "suction" flash chromatography, yielded a clear gum. Yield: 158 mg, (63%) which solidified after bulb to bulb distillation (180° C. at 0.2 mm Hg), giving the title compound M.p. 72° C. 1H NMR (CDCl3) δ: 2.87 (3H, s,), 3.03 (1H, dd,), 3.36 (1H, dd,), 3.70 (3H, s,), 4.08 (1H, ddd,), 4.80 (1H, d,), 6.28 (1H, d,), 6.61 (1H, dd,), 6.77 (1H, dd,), 7.1-7.5 (4H, m,).

reactant | cis-4b,5,9b,10-tetrahydro-8-methoxyindeno[1,2-b]indole | 1.0 mmol, 239 mg | COC1=CC=2[C@@H]3[C@H](NC2C=C1)C1=CC=CC=C1C3 | C16H15NO
reactant | iodomethane | IC | CH3I
reactant | sodium hydride | 1.1 mmol, 25 mg | [H-].[Na+]
solvent | THF | 2 cm3 | C1CCOC1 | C4H8O
product | cis-4b.5.9b,10-Tetrahydro-8-methoxy-5-methylindeno[1,2-b]indole | COC1=CC=2[C@@H]3[C@H](N(C2C=C1)C)C1=CC=CC=C1C3 | C17H17NO
